US07528129B2
17d) methyl(S)-2-(4-benzyloxy-3,5-dimethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoate
A mixture of 1.69 g (4.74 mmol) 1-methyl(S)-2-(4-benzyloxy-3,5-dimethyl-benzyl)-succinate, 1.55 g (4.83 mmol) TBTU, 0.69 g (5.10 mmol) HOBt and 1.34 mL (7.71 mmol) ethyldiisopropylamine in 40 mL THF and 5 mL DMF was stirred for 16 h at RT. Then 1.16 g (4.74 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one was added to the reaction mixture, which was then stirred for a further 2.5 h at RT. The reaction solution was combined with 40 mL EtOAc, the organic phase was washed twice with 30 mL semisaturated NaHCO3 and once with 40 mL saturated NaCl solution washed and dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was purified by chromatography (silica gel, EtOAc/Cyc 3:1).

reactant | 1-methyl(S)-2-(4-benzyloxy-3,5-dimethyl-benzyl)-succinate | 4.74 mmol, 1.69 g | C(C1=CC=CC=C1)OC1=C(C=C(C[C@H](C(=O)OC)CC(=O)[O-])C=C1C)C
reactant | TBTU | 4.83 mmol, 1.55 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 5.10 mmol, 0.69 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyldiisopropylamine | 7.71 mmol, 1.34 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 4.74 mmol, 1.16 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | methyl(S)-2-(4-benzyloxy-3,5-dimethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoate | C(C1=CC=CC=C1)OC1=C(C=C(C[C@H](C(=O)OC)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C)C | C35H41N3O5
